US06362177B1
To a mixture of 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine (0.050 mmol), 3,4-diethoxybenzaldehyde (0.15 mmol), methanol (1.2 mL), and acetic acid (0.050 mL) was added NaBH3CN (0.25 mmol) in methanol (0.50 mL). The reaction mixture was stirred at 50° C. overnight. The mixture was cooled to room temperature, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. To the resulting material were added dichloromethane (2 mL) and phenyl isocyanate (0.10 mL) and the solution was stirred at room temperature for 1 h, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated. The residue was dissolved in methanol (0.25 mL) and 4 N HCl in dioxane (0.125 mL) was added. The solution was stirred at room temperature overnight and concentrated. The residue was dissolved in methanol, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated to afford 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(3,4-diethoxybenzyl)piperidine (Compound No. 2065) (21.2 mg, 84%): The purity was determined by RPLC/MS (97%); ESI/MS m/e 505.2 (M++H, C26H34F2N4O4).

reactant | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]piperidine | 0.050 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCNCC2)C=C(C(=C1)F)F | C20H28F2N4O4
reactant | 3,4-diethoxybenzaldehyde | 0.15 mmol | C(C)OC=1C=C(C=O)C=CC1OCC | C11H14O3
reactant | acetic acid | 0.050 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.25 mmol | [BH3-]C#N.[Na+]
solvent | methanol | 0.50 mL | CO | CH4O
solvent | methanol | 1.2 mL | CO | CH4O
product | 4-[{N-(2-amino-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(3,4-diethoxybenzyl)piperidine | NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC(=C(C=C2)OCC)OCC)C=C(C(=C1)F)F | C26H34F2N4O4
